US07888366B2
4-(Trifluoromethyl)benzyl alcohol (1.15 g; 6.3 mmol) was added to a cooled (0° C.) slurry of sodium hydride (249.7 mg; 6.2 mmol) in dimethylformamide under nitrogen atmosphere. The reaction mixture was slowly warmed to room temperature overnight. The reaction mixture was then added to a cooled (0° C.) solution of 2,6-difluorobenzonitrile in dimethylfomamide, stirred for 6 hours at room temperature. The reaction mixture was poured on crushed ice-water, stirred, filtered, washed with water and dried to afford 804.4 milligrams of 2-fluoro-6-(4-trifluoromethylphenylmethoxy)-benzonitrile as waxy yellow solid. Yield 45%.

reactant | 4-(Trifluoromethyl)benzyl alcohol | 6.3 mmol, 1.15 g | FC(C1=CC=C(CO)C=C1)(F)F | C8H7F3O
reactant | sodium hydride | 6.2 mmol, 249.7 mg | [H-].[Na+]
reactant | 2,6-difluorobenzonitrile | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-fluoro-6-(4-trifluoromethylphenylmethoxy)-benzonitrile | 804.4 milligrams, Yield 45% | FC1=C(C#N)C(=CC=C1)OCC1=CC=C(C=C1)C(F)(F)F | C15H9F4NO
